US05948775
3-[4-(2-Chloro-ethoxy)-phenyl]-8-hydroxy-2-(4-hydroxy-phenyl)-3H-quinazolin-4-one
To a chilled (0° C.) solution of 3.5 g (0.00801 mol) of 3-[4-(2-chloro-ethoxy)-phenyl]-8-methoxy-2-(4-methoxy-phenyl)-3H-quinazolin-4-one in 100 mL of dry methylene chloride was added 35 mL (0.0352 mol) of boron tribromide (1M solution in dichloroethane (Aldrich Chemicals)). The reaction mixture was stirred at 0° C. for 20 minutes, under nitrogen, and then at room temperature overnight. The crude reaction mixture was added to 400 mL of aqueous sodium bicarbonate. The solution was stirred vigorously for 1 hour at room temperature. The precipitate which formed was collected by vacuum filtration. An analytical sample (mp 274-276° C.) was obtained by recrystallization from methanol.

reactant | 3-[4-(2-chloro-ethoxy)-phenyl]-8-methoxy-2-(4-methoxy-phenyl)-3H-quinazolin-4-one | 0.00801 mol, 3.5 g | ClCCOC1=CC=C(C=C1)N1C(=NC2=C(C=CC=C2C1=O)OC)C1=CC=C(C=C1)OC | C24H21ClN2O4
reactant | boron tribromide | 0.0352 mol, 1M, 35 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | 400 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(2-Chloro-ethoxy)-phenyl]-8-hydroxy-2-(4-hydroxy-phenyl)-3H-quinazolin-4-one | ClCCOC1=CC=C(C=C1)N1C(=NC2=C(C=CC=C2C1=O)O)C1=CC=C(C=C1)O | C22H17ClN2O4
